US07323455B2
N-{4-Bromo-2-[1-hydroxy-1-(3-thienyl)ethyl]phenyl}-2-chloroacetamide
Prepared from 1-(2-amino-5-bromophenyl)-1-thien-3-ylethanol and chloroacetyl chloride generally according to the procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.80 (s, 1H), 8.03 (d, J=7.5 Hz, 1H), 7.52-7.43 (m, 2H), 7.40 (m, 2H), 7.00 (s, 1H), 6.93 (m, 1H), 4.30 (d, J=15.00 Hz, 1H), 4.23 (d, J=15.00 Hz, 1H), 1.90 (s, 3H); MS (ES) m/z 372/374/376 ([M−H]−, 100%).

reactant | 1-(2-amino-5-bromophenyl)-1-thien-3-ylethanol | NC1=C(C=C(C=C1)Br)C(C)(O)C1=CSC=C1 | C12H12BrNOS
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | N-{4-Bromo-2-[1-hydroxy-1-(3-thienyl)ethyl]phenyl}-2-chloroacetamide | BrC1=CC(=C(C=C1)NC(CCl)=O)C(C)(C1=CSC=C1)O | C14H13BrClNO2S
